US07074794B2
4-Amino-3-bromobenzotrifluoride (2.40 g) was dissolved in N-methyl-2-pyrrolidone (10 mL), and potassium ethylxanthate (3.52 g) was added thereto. The mixture was stirred at 160° C. for 3 hr with heating. Water (300 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed successively with water and brine, and concentrated under reduced pressure to give 6-trifluoromethyl-2-mercaptobenzothiazole (607 mg) as an orange powder.

reactant | 4-Amino-3-bromobenzotrifluoride | 2.40 g | NC1=C(C=C(C=C1)C(F)(F)F)Br | C7H5BrF3N
reactant | potassium ethylxanthate | 3.52 g | C(C)OC(=S)[S-].[K+]
reactant | Water | 300 mL | O | H2O
solvent | N-methyl-2-pyrrolidone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 6-trifluoromethyl-2-mercaptobenzothiazole | 607 mg | FC(C1=CC2=C(N=C(S2)S)C=C1)(F)F | C8H4F3NS2
